US09169295B2
(S)-Allyl 2-((S)-2-(((9H-fluoren-9-yl)methoxy)carbonylamino)-3-(tert-butoxycarbonylamino)propanamido)-4-methylpentanoate
Following the procedure as described in Example 24, except using suspension of (R)-2-(((9H-fluoren-9-yl)methoxy)carbonylamino)-3-(tert-butoxycarbonylamino)propanoic acid (500 mg, 1.172 mmol), L-leucine allyl ester p-toluenesulfonate salt (411 mg, 1.196 mmol), 1-hydroxy-7-azabenzotriazole (80 mg, 0.586 mmol), CH2Cl2 (40 mL), N-methylmorpholine (0.258 mL, 2.345 mmol), and EDC (247 ing, 1.290 mmol), 137 mg (20.16%) of the title compound is isolated as a white solid. Purification is done by BIOTAGE® Silica gel chromatography on a 90 g Thompson Single Step silica cartridge using a linear gradient from 100% Hexanes to 100% (1:1 EtOAc/Hexanes) over 12 column volumes. LC/MS (Condition A): ret. T=4.50 min, (2M+Na) 1181.97.

reactant | (R)-2-(((9H-fluoren-9-yl)methoxy)carbonylamino)-3-(tert-butoxycarbonylamino)propanoic acid | 1.172 mmol, 500 mg | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@@H](C(=O)O)CNC(=O)OC(C)(C)C | C23H26N2O6
reactant | L-leucine allyl ester p-toluenesulfonate salt | 1.196 mmol, 411 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C.C(C=C)OC([C@@H](N)CC(C)C)=O
reactant | 1-hydroxy-7-azabenzotriazole | 0.586 mmol, 80 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | N-methylmorpholine | 2.345 mmol, 0.258 mL | CN1CCOCC1 | C5H11NO
reactant | EDC | 1.290 mmol
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
product | (S)-Allyl 2-((S)-2-(((9H-fluoren-9-yl)methoxy)carbonylamino)-3-(tert-butoxycarbonylamino)propanamido)-4-methylpentanoate | 137 mg, 20.16% | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@H](C(=O)N[C@H](C(=O)OCC=C)CC(C)C)CNC(=O)OC(C)(C)C | C32H41N3O7
